US07384930B2
(S)-4-Chloro-7-(2-(4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)-2-oxoethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one.
(S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride (100 mg, 0.22 mmol) and 8-fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one acetate (90 mg, 0.29 mmol) were reacted following a procedure analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as tan solid in 13% yield. MS m/e (M+H)+=613.3. 1H NMR (500 MHz, DMSO-D6): δ=13.46 (s, 1H), 11.78 (s, 1H), 8.30 (s, 2H), 8.23 (s, 1H), 7.75 (d, J=19.53, 1H), 7.45 (m, 1H), 7.34 (m, 1H), 7.21 (s, 1H), 7.12 (m, 3H), 5.40 (d, J=16.48, 1H), 4.64 (m, 4H), 4.13 (d, J=12.82, 1H), 4.00 (m, 1H), 3.17 (m, 2H), 3.04 (m, 2H), 2.94 (m, 1H), 2.67 (m, 1H), 2.44 (m, 1H), 1.94 (m, 1H), 1.86 (m, 1H), 1.57 (m, 1H), 1.42 (m, 1H).

reactant | (S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride | 0.22 mmol, 100 mg | Cl.Cl.ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC2=CC=NC=C2
reactant | 8-fluoro-3-(piperidin-4-yl)quinolin-2(1H)-one acetate | 0.29 mmol, 90 mg | C(C)(=O)O.FC=1C=CC=C2C=C(C(NC12)=O)C1CCNCC1
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(S)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | (S)-4-Chloro-7-(2-(4-(8-fluoro-2-oxo-1,2-dihydroquinolin-3-yl)piperidin-1-yl)-2-oxoethyl)-9-(pyridin-4-ylmethyl)-6,7,9,10-tetrahydroazepino[3,4-e]indazol-8(3H)-one | 13% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C=2C(NC1=C(C=CC=C1C2)F)=O)=O)CC2=CC=NC=C2 | C33H30ClFN6O3
